US05189054
Scheme I, step f: 3-[(2-Benzylphenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole
Dissolve 3-[(2-benzylphenacyl)methylamino]-2-carbethoxy-4,6-dichloro-1-tert-butyloxycarbonyl-indole (320 mg, 0.55 mmol) in methylene chloride (5 mL). Add trifluoroacetic acid (1 mL) and stir at room temperature for 3 hours. Evaporate the solvent in vacuo and recrystallize (ethyl acetate/hexane) to give the title compound (250 mg, 95%); mp 208°-209° C.

reactant | 3-[(2-benzylphenacyl)methylamino]-2-carbethoxy-4,6-dichloro-1-tert-butyloxycarbonyl-indole | 0.55 mmol, 320 mg | C(C1=CC=CC=C1)C1=C(C(CCNC2=C(N(C3=CC(=CC(=C23)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC)=O)C=CC=C1 | C32H32Cl2N2O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[(2-Benzylphenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole | 250 mg, 95% | C(C1=CC=CC=C1)C1=C(C(CCNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=CC=C1 | C27H24Cl2N2O3
